US08557805B2
1-{2-[5-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}-2-methylpropan-2-ol
To a solution of ethyl{2-[5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (500 mg) in tetrahydrofuran (10 mL) was added 1M methylmagnesium bromide tetrahydrofuran solution (5 mL) twice at 30 min intervals at room temperature, and the mixture was stirred at room temperature for 3 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio) and further to silica gel column chromatography (methanol:ethyl acetate:hexane=0:0:100 to 10:90:0, volume ratio). The obtained crude product was purified by preparative HPLC to give the title compound (75 mg, yield 15%) as white crystals.

reactant | ethyl{2-[5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 500 mg | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)COC)OC1CCOCC1)=O | C27H31N3O6S
reactant | methylmagnesium bromide tetrahydrofuran | 1M, 5 mL | O1CCCC1.C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 1-{2-[5-{[6-(Methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}-2-methylpropan-2-ol | 75 mg, yield 15% | COCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(C)(O)C | C27H33N3O5S
